US06562085B1
Octyl 3-(2H-Benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate
Methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate (353 g, 1 mol), isooctanol (260 g, 2 mol, from Exxon) and dibutyltin oxide (0.5 g, 0.002 mol) are charged to a reaction flask and heated to 175° C. While heating to 175° C., a 300 mm Hg vacuum is applied. After holding at 175° C. for 30 minutes, the excess isooctanol is distilled by slowly reducing the pressure to <5 mm Hg. The desired product is cooled and discharged. The title compound is obtained in a yield of 451 g (100%) as a light yellow oil whose structure is verified by 1Hnmr and mass spectroscopy. The non-distilled product is analyzed by ICP (Inductively Coupled Plasma) for tin and is found to contain 170 ppm of tin.

reactant | Methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 1 mol, 353 g | N=1N(N=C2C1C=CC=C2)C=2C=C(CCC(=O)OC)C=C(C2O)C(C)(C)C | C20H23N3O3
reactant | isooctanol | 2 mol, 260 g | C(CCCCC(C)C)O | C8H18O
reactant | dibutyltin oxide | 0.002 mol, 0.5 g | C(CCC)[Sn](CCCC)=O
product | Octyl 3-(2H-Benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | N=1N(N=C2C1C=CC=C2)C=2C=C(CCC(=O)OCCCCCCCC)C=C(C2O)C(C)(C)C | C27H37N3O3
